** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_delay_chain.sch
.subckt async_delay_chain vdd vss in out
*.ipin in
*.iopin vdd
*.iopin vss
*.opin out
x1 vdd in net1 vss async_inverter
x2 vdd net1 net2 vss async_inverter
x3 vdd net2 net3 vss async_inverter
x4 vdd net3 net4 vss async_inverter
x5 vdd net4 net5 vss async_inverter
x6 vdd net5 net6 vss async_inverter
x7 vdd net6 net7 vss async_inverter
x8 vdd net7 net8 vss async_inverter
x9 vdd net8 net9 vss async_inverter
x10 vdd net9 net10 vss async_inverter
x11 vdd net10 net11 vss async_inverter
x12 vdd net11 net12 vss async_inverter
x13 vdd net12 net13 vss async_inverter
x14 vdd net13 net14 vss async_inverter
x15 vdd net14 net15 vss async_inverter
x16 vdd net15 out vss async_inverter
.ends async_delay_chain

* expanding   symbol:  sar_adc/blocks/async_sar/async_inverter.sym # of pins=4
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_inverter.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_inverter.sch
.subckt async_inverter vdd input out vss
*.ipin input
*.opin out
*.iopin vdd
*.iopin vss
XM5 out input vdd vdd pfet_03v3 L=0.28u W=0.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 out input vss vss nfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
